US08026257B2
3-Methyl-7-(((4-phenylpiperidin-4-yl)methoxy)methyl)-5-(trifluoromethyl)-1H-indazole.
tert-Butyl 4-(((3-methyl-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate (100 mg, 0.16 mmol) was treated with a trifluoroacetic acid/methylene chloride mixture (1:1, 3 mL) for 4 h. The solvent was removed in vacuo and the resulting crude mixture passed through a strong cation exchange column. After washing the column with several volumes of methanol, the product was eluted by washing the column with 2 M ammonia in methanol. The solvent was evaporated and the compound purified by reverse phase HPLC to afford 24 mg (38%) as a clear oil. 1H-NMR (CD3OD, 500 MHz) δ 8.02 (s, 1H), 7.39-7.45 (m, 5H), 7.29-7.45 (m, 1H), 4.76 (s, 2H), 3.56 (s, 2H), 3.27-3.31 (m, 2H), 2.89-2.96 (m, 2H), 2.60 (s, 3H), 2.49-2.52 (m, 2H), 2.16-2.22 (m, 2H). Mass spec.: 404.14 (MH)+. Accurate mass spec.: m/z 404.1930 [MH]+, Δ=4.9 ppm.

reactant | tert-Butyl 4-(((3-methyl-5-(trifluoromethyl)-2-((2-(trimethylsilyl)ethoxy)methyl)-2H-indazol-7-yl)methoxy)methyl)-4-phenylpiperidine-1-carboxylate | 0.16 mmol, 100 mg | CC=1N(N=C2C(=CC(=CC12)C(F)(F)F)COCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1)COCC[Si](C)(C)C | C33H46F3N3O4Si
reactant | trifluoroacetic acid methylene chloride | 3 mL | FC(C(=O)O)(F)F.C(Cl)Cl
product | 3-Methyl-7-(((4-phenylpiperidin-4-yl)methoxy)methyl)-5-(trifluoromethyl)-1H-indazole | CC1=NNC2=C(C=C(C=C12)C(F)(F)F)COCC1(CCNCC1)C1=CC=CC=C1 | C22H24F3N3O
